US07601870B2
4k 2-Cyclopentyl-N-[2,6-dimethyl-4-(4-trifluoromethyl-benzylamino)-phenyl]-acetamide
N-(4-Amino-2,6-dimethyl-phenyl)-2-cyclopentyl-acetamide (207 mg) and 4-trifluoromethyl-benzaldehyde (125 uL) were dissolved in acetonitrile (2 mL) and heated to 150° C. for 5 minutes in a sealed microwave process vial. Sodium cyanoborohydride (0.7 M in methanol, 5 mL) and acetic acid (500 uL) were added and the reaction mixture was stirred at 25° C. for 16 hours. Aqueous sodium carbonate (10%, 25 mL) was added, and the product was collected by filtration to furnish 0.31 g (91% yield) of the title compound as a white solid. LC-MS (m/z) 405 (MH+); tR=3.19, (UV, ELSD) 97%, 99%. 1H NMR (500 MHz, DMSO-d6): 1.19 (m, 2H), 1.51 (m, 2H), 1.60 (m, 2H), 1.75 (m, 2H), 1.96 (s, 6H), 2.22 (m, 3H), 4.34 (d, 2H), 6.18 (t, 1H), 6.25 (s, 2H), 7.55 (d, 2H), 7.67 (d, 2H), 8.76 (s, 1H).

reactant | N-(4-Amino-2,6-dimethyl-phenyl)-2-cyclopentyl-acetamide | 207 mg | NC1=CC(=C(C(=C1)C)NC(CC1CCCC1)=O)C | C15H22N2O
reactant | 4-trifluoromethyl-benzaldehyde | 125 uL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | Sodium cyanoborohydride | 0.7 M, 5 mL | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | 25 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetic acid | 500 uL | C(C)(=O)O | C2H4O2
product | 2-Cyclopentyl-N-[2,6-dimethyl-4-(4-trifluoromethyl-benzylamino)-phenyl]-acetamide | 0.31 g, 91% yield | C1(CCCC1)CC(=O)NC1=C(C=C(C=C1C)NCC1=CC=C(C=C1)C(F)(F)F)C | C23H27F3N2O
